Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[C:1]([C:2]([CH3:3])([CH3:4])[Br:5])=[O:6].[O:7]=[N+:8]([O-:9])[c:10]1[cH:11][cH:12][cH:13][cH:14][c:15]1[NH:16][NH:17][CH:18]1[CH:19]2[CH2:20][CH:21]3[CH2:22][CH:23]([CH2:24]2)[CH2:25][CH:26]1[CH2:27]3>>[C:1]([C:2]([CH3:3])([CH3:4])[Br:5])(=[O:6])[N:17]([NH:16][c:15]1[c:10]([N+:8](=[O:7])[O-:9])[cH:11][cH:12][cH:13][cH:14]1)[CH:18]1[CH:19]2[CH2:20][CH:21]3[CH2:22][CH:23]([CH2:24]2)[CH2:25][CH:26]1[CH2:27]3,[O:7]=[N+:8]([OH:9])[c:10]1[cH:11][cH:12][cH:13][cH:14][c:15]1[NH:16][NH:17][CH:18]1[CH:19]2[CH2:20][CH:21]3[CH2:22][CH:23]([CH2:24]2)[CH2:25][CH:26]1[CH2:27]3.[Br:101][C:1]([C:2]([CH3:3])([CH3:4])[Br:5])=[O:6]>>[C:1]([C:2]([CH3:3])([CH3:4])[Br:5])(=[O:6])[N:17]([NH:16][c:15]1[c:10]([N+:8](=[O:7])[OH:9])[cH:11][cH:12][cH:13][cH:14]1)[CH:18]1[CH:19]2[CH2:20][CH:21]3[CH2:22][CH:23]([CH2:24]2)[CH2:25][CH:26]1[CH2:27]3,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(17, 1), ([1, 6], 6), (6, [6, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[cH:14][c:15]1[N+:16](=[O:17])[O-:18].[NH2:19][CH2:20][CH2:21][c:22]1[cH:23][cH:24][c:25]([CH2:26][N:27]2[CH2:28][CH2:29][CH2:30][CH2:31]2)[cH:32][cH:33]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[cH:14][c:15]1[N+:16](=[O:17])[O-:18])[NH:19][CH2:20][CH2:21][c:22]1[cH:23][cH:24][c:25]([CH2:26][N:27]2[CH2:28][CH2:29][CH2:30][CH2:31]2)[cH:32][cH:33]1,[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[cH:14][c:15]1[N+:16](=[O:17])[OH:18].[NH2:19][CH2:20][CH2:21][c:22]1[cH:23][cH:24][c:25]([CH2:26][N:27]2[CH2:28][CH2:29][CH2:30][CH2:31]2)[cH:32][cH:33]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([Cl:11])[cH:12][cH:13]2)[cH:14][c:15]1[N+:16](=[O:17])[OH:18])[NH:19][CH2:20][CH2:21][c:22]1[cH:23][cH:24][c:25]([CH2:26][N:27]2[CH2:28][CH2:29][CH2:30][CH2:31]2)[cH:32][cH:33]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (19, 1), ([1, 2], 2), (303, 19.1), ([19.1, 19], 19), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][n:8][n:9]1>>[NH2:2][CH2:3][c:4]1[cH:5][cH:6][cH:7][n:8][n:9]1,[N:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][n:8][n:9]1.[Li+:301].[AlH4-:302].[OH2:303].[OH2:304]>>[NH2:2][CH2:3][c:4]1[cH:5][cH:6][cH:7][n:8][n:9]1,nitrile_reduction,"[([302, 302.1], 3), ([3, 2], 301), ([302, 302.1], 3), ([3, 2], 302), ([301, 2], 303.1), ([303.1, 303], 303), ([302, 2], 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C(OCc1ccccc1)[N:1]([CH2:2][C@@H:3]([c:4]1[cH:5][c:6]2[c:7]([cH:8][cH:9]1)[O:10][C:11]([CH3:12])([CH3:13])[O:14][CH2:15]2)[OH:16])[CH2:17][CH2:18][CH2:19][CH2:20][CH2:21][CH2:22][O:23][CH2:24][CH2:25][O:26][CH2:27][c:28]1[cH:29][cH:30][cH:31][c:32]([N+:33]([CH3:34])([CH3:36])[CH3:35])[cH:37]1>>[NH:1]([CH2:2][C@@H:3]([c:4]1[cH:5][c:6]2[c:7]([cH:8][cH:9]1)[O:10][C:11]([CH3:12])([CH3:13])[O:14][CH2:15]2)[OH:16])[CH2:17][CH2:18][CH2:19][CH2:20][CH2:21][CH2:22][O:23][CH2:24][CH2:25][O:26][CH2:27][c:28]1[cH:29][cH:30][cH:31][c:32]([N+:33]([CH3:34])([CH3:35])[CH3:36])[cH:37]1,[O:201]=[C:101]([O:202][CH2:203][c:204]1[cH:205][cH:206][cH:207][cH:208][cH:209]1)[N:1]([CH2:2][C@@H:3]([c:4]1[cH:5][c:6]2[c:7]([cH:8][cH:9]1)[O:10][C:11]([CH3:12])([CH3:13])[O:14][CH2:15]2)[OH:16])[CH2:17][CH2:18][CH2:19][CH2:20][CH2:21][CH2:22][O:23][CH2:24][CH2:25][O:26][CH2:27][c:28]1[cH:29][cH:30][cH:31][c:32]([N+:33]([CH3:34])([CH3:35])[CH3:36])[cH:37]1.[BrH:301]>>[NH:1]([CH2:2][C@@H:3]([c:4]1[cH:5][c:6]2[c:7]([cH:8][cH:9]1)[O:10][C:11]([CH3:12])([CH3:13])[O:14][CH2:15]2)[OH:16])[CH2:17][CH2:18][CH2:19][CH2:20][CH2:21][CH2:22][O:23][CH2:24][CH2:25][O:26][CH2:27][c:28]1[cH:29][cH:30][cH:31][c:32]([N+:33]([CH3:34])([CH3:35])[CH3:36])[cH:37]1,Cbz_deprotection,"[(201, 301.1), ([301.1, 301], 301), (301, 203), ([203, 202], [202, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
